US08372864B2
1.36 g of methyl[2-(2-bromophenyl)ethyl]carbamate and 5.2 g of phosphoric acid are stirred under an inert atmosphere at a temperature close to 150° C. The reaction mixture is cooled to a temperature close to 20° C., then it is hydrolysed with a mixture of water and ethyl acetate using ultrasound treatment. After decanting, the organic phase is washed with a saturated aqueous solution of sodium hydrogen carbonate, water, a saturated aqueous solution of sodium chloride, then concentrated using a rotary evaporator under reduced pressure (5 kPa). 0.105 g of 5-bromo-3,4-dihydroisoquinolin-1(2H)-one is obtained in the form of an amorphous beige solid.

reactant | methyl[2-(2-bromophenyl)ethyl]carbamate | 1.36 g | COC(NCCC1=C(C=CC=C1)Br)=O | C10H12BrNO2
reactant | phosphoric acid | 5.2 g | P(O)(O)(O)=O | H3O4P
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-bromo-3,4-dihydroisoquinolin-1(2H)-one | 0.105 g | BrC1=C2CCNC(C2=CC=C1)=O | C9H8BrNO
